US06172016B2
Preparation of 3-methyl-5-cyclohexylpentanol.
3-Methyl-5-phenylpentanol (50 g., 0.28 mol.) and 1 g. of 50% Ni on silica catalyst (2 wt %, G-49-C, United Catalyst) were stirred at 700 rpm in a Parr reactor at 180° C. and 200-600 psi of hydrogen until hydrogen absorption stopped (12 hours). The reaction mixture was filtered through a filter bed (Celite™) using toluene as a rinse solvent and concentrated to a clear, colorless liquid. The odor grade product was isolated by fractional distillation, 96% yield; bp 84-86° C. at 0.8 mm. Odor: powerful green, rosy. Mass Spectrum form 5313-24. MS (EI) m/z (relative intensity) 166 (M+−H2O, 5), 151 (M+−Me and H2O, 2).

reactant | 3-Methyl-5-phenylpentanol | 0.28 mol, 50 g | CC(CCO)CCC1=CC=CC=C1 | C12H18O
catalyst | Ni on silica | [Ni] | Ni
solvent | H2O | O | H2O
product | 3-methyl-5-cyclohexylpentanol | 96% yield | CC(CCO)CCC1CCCCC1 | C12H24O
